US07820825B2
Preparation of Methyl 4-((1-Methyl-1H-benzo[d]imidazol-2-yl)methyl)benzoate
A solution of methyl 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoate (0.2 g, 0.75 mmol) in acetone was treated with potassium carbonate (0.31 g, 2.2 mmol), cooled to 0° C., treated dropwise with and methyl iodide (0.070 mL, 1.1 mmol), heated at 40° C. for 12 h, cooled to room temperature, and filtered. The filtrate was evaporated under reduced pressure. Purification of the resultant residue by column chromatography (silica, chloroform) afforded the title product (28%). 1H NMR (400 MHz, CDCl3): 7.98 (d, J=8.4 Hz, 2H), 7.7 (m, 1H), 7.37 (m,5H), 4.38 (s, 2H), 3.9 (s, 3H), 3.5 (s, 3H). [M+H] 281.

reactant | methyl 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoate | 0.75 mmol, 0.2 g | N1C(=NC2=C1C=CC=C2)CC2=CC=C(C(=O)OC)C=C2 | C16H14N2O2
reactant | potassium carbonate | 2.2 mmol, 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.1 mmol, 0.070 mL | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 4-((1-Methyl-1H-benzo[d]imidazol-2-yl)methyl)benzoate | 28% | CN1C(=NC2=C1C=CC=C2)CC2=CC=C(C(=O)OC)C=C2 | C17H16N2O2
